### PR TITLE
[Merged by Bors] - feat: integrability of a convex function of R.N. derivatives

### PR DESCRIPTION
**Pull request by RemyDegenne**
For `f` a convex continuous real function, if `f ((μ ⊗ₘ κ).rnDeriv (ν ⊗ₘ η))` is `(ν ⊗ₘ η)`-integrable, then `f (μ.rnDeriv ν)` is `ν`-integrable.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/Approximation.lean [hunk 1]
```diff
@@ -88,6 +88,25 @@ lemma exists_affine_le_of_lt {x : E} {a : ℝ} (hx : x ∈ s) (hax : a < φ x) (
...
 
+lemma exists_affine_le_of_lt_real {s : Set ℝ} {f : ℝ → ℝ} {x : ℝ} {a : ℝ} (hx : x ∈ s)
+    (hax : a < f x) (hsc : IsClosed s) (hfc : LowerSemicontinuousOn f s) (hf : ConvexOn ℝ s f) :
+    ∃ (c c' : ℝ), (∀ y ∈ s, c * y + c' ≤ f y) ∧ c * x + c' = a := by
+  obtain ⟨l, c', hlc'_le, hlc'_eq⟩ := exists_affine_le_of_lt (𝕜 := ℝ) hx hax hsc hfc hf
+  have h1 y : l 1 * y = l y := by rw [mul_comm, ← smul_eq_mul, ← map_smul, smul_eq_mul, mul_one]
+  refine ⟨l 1, c', fun y hy ↦ ?_, ?_⟩
+  · specialize hlc'_le ⟨y, hy⟩
+    simpa [h1] using hlc'_le
+  · simpa [h1] using hlc'_eq
```
Comment (EtienneC30) [inline Mathlib/Analysis/Convex/Approximation.lean]:
```suggestion
  exact ⟨l 1, c', fun y hy ↦ by simpa [h1] using hlc'_le ⟨y, hy⟩, by simpa [h1] using hlc'_eq⟩
```

File: Mathlib/Analysis/Convex/Approximation.lean [hunk 2]
```diff
@@ -88,6 +88,25 @@ lemma exists_affine_le_of_lt {x : E} {a : ℝ} (hx : x ∈ s) (hax : a < φ x) (
...
+
+lemma exists_affine_le_real {s : Set ℝ} {f : ℝ → ℝ}
+    (hsc : IsClosed s) (hfc : LowerSemicontinuousOn f s) (hf : ConvexOn ℝ s f) :
+    ∃ c c', ∀ x ∈ s, c * x + c' ≤ f x := by
+  rcases Set.eq_empty_or_nonempty s with rfl | ⟨x, hxs⟩
```
Comment (EtienneC30) [inline Mathlib/Analysis/Convex/Approximation.lean]:
```suggestion
  rcases s.eq_empty_or_nonempty with rfl | ⟨x, hxs⟩
```

File: Mathlib/MeasureTheory/Measure/Decomposition/RadonNikodym.lean [hunk 3]
```diff
@@ -296,6 +302,30 @@ lemma inv_rnDeriv' [SigmaFinite μ] [SigmaFinite ν] (hμν : μ ≪ ν) :
...
+  constructor
+  · rw [← ν.haveLebesgueDecomposition_add μ]
+    have : ∀ᵐ x ∂(ν.singularPart μ), μ.rnDeriv ν x = 0 := μ.rnDeriv_eq_zero_ae_singularPart ν
+    filter_upwards [this] with x hx h_absurd using absurd hx h_absurd
+  · have h_ac : μ.withDensity (ν.rnDeriv μ) ≪ μ := withDensity_absolutelyContinuous _ _
+    rw [← ν.haveLebesgueDecomposition_add μ]
+    suffices ∀ᵐx ∂μ, μ.rnDeriv ν x ≠ 0 → p x from h_ac this
+    filter_upwards [h] with _ h _ using h
+
+lemma ae_rnDeriv_ne_zero_imp_of_ae [SigmaFinite μ] [SigmaFinite ν] {p : α → Prop}
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Decomposition/RadonNikodym.lean]: there is no difference except the fact that `ν` is explicit in the first one, is that normal?

File: Mathlib/MeasureTheory/Measure/Decomposition/RadonNikodym.lean [hunk 4]
```diff
@@ -200,6 +200,12 @@ lemma rnDeriv_eq_zero_of_mutuallySingular {ν' : Measure α} [HaveLebesgueDecomp
     exact h_ac'.ae_le this
   exact rnDeriv_zero _
 
+variable (μ ν) in
+lemma rnDeriv_eq_zero_ae_singularPart [SigmaFinite μ] [SigmaFinite ν] :
+    ∀ᵐ x ∂(ν.singularPart μ), μ.rnDeriv ν x = 0 := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Decomposition/RadonNikodym.lean:205]: Should this be written with `=ᵐ[]`?

File: Mathlib/MeasureTheory/Measure/Decomposition/IntegralRNDeriv.lean [hunk 5]
```diff
@@ -106,4 +114,103 @@ lemma mul_le_integral_rnDeriv_of_ac [IsFiniteMeasure μ] [IsFiniteMeasure ν]
       ENNReal.toReal_inv, μ', measureReal_def]
   · simp [ENNReal.toReal_pos_iff, hν, measureReal_def]
 
+section Integrable
+
+variable {β : Type*} {mβ : MeasurableSpace β} {κ η : Kernel α β} {f : ℝ → ℝ}
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Decomposition/IntegralRNDeriv.lean]: Can you use `X` and `Y` please?

File: Mathlib/MeasureTheory/Measure/Decomposition/IntegralRNDeriv.lean [hunk 6]
```diff
@@ -106,4 +114,103 @@ lemma mul_le_integral_rnDeriv_of_ac [IsFiniteMeasure μ] [IsFiniteMeasure ν]
...
+  [IsFiniteMeasure μ] [IsFiniteMeasure ν]
+
+lemma lintegral_rnDeriv_compProd [IsSFiniteKernel κ] [IsFiniteKernel η]
+    (hκη : μ ⊗ₘ κ ≪ μ ⊗ₘ η) :
+    ∀ᵐ a ∂μ, ∫⁻ b, (μ ⊗ₘ κ).rnDeriv (μ ⊗ₘ η) (a, b) ∂η a = κ a univ := by
+  refine ae_eq_of_forall_setLIntegral_eq_of_sigmaFinite (by fun_prop) (κ.measurable_coe .univ) ?_
+  intro s hs hsμ
+  calc ∫⁻ a in s, ∫⁻ b, (μ ⊗ₘ κ).rnDeriv (μ ⊗ₘ η) (a, b) ∂(η a) ∂μ
+  _ = ∫⁻ a in s, ∫⁻ b in univ, (μ ⊗ₘ κ).rnDeriv (μ ⊗ₘ η) (a, b) ∂(η a) ∂μ := by simp
+  _ = ∫⁻ (a : α) in s, (κ a) univ ∂μ := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Decomposition/IntegralRNDeriv.lean]:
```suggestion
  _ = ∫⁻ a in s, (κ a) univ ∂μ := by
```

File: Mathlib/MeasureTheory/Measure/Decomposition/IntegralRNDeriv.lean [hunk 7]
```diff
@@ -106,4 +114,103 @@ lemma mul_le_integral_rnDeriv_of_ac [IsFiniteMeasure μ] [IsFiniteMeasure ν]
...
+    rcases eq_or_lt_of_le (α := ℝ) (hx : 0 ≤ x) with rfl | hx_pos
+    · exact hf_cont_at
+    · have h := hf_cvx.continuousOn_interior x (by simpa)
+      simp only [nonempty_Iio, interior_Ici',
+        continuousWithinAt_iff_continuousAt (Ioi_mem_nhds hx_pos)] at h
+      exact h.continuousWithinAt
+  have h_lt_top : ∀ᵐ a ∂ν, ∀ᵐ b ∂η a, (μ ⊗ₘ κ).rnDeriv (ν ⊗ₘ η) (a, b) < ∞ :=
+    Measure.ae_ae_of_ae_compProd <| (μ ⊗ₘ κ).rnDeriv_lt_top (ν ⊗ₘ η)
+  have h_integrable : Integrable (fun x ↦ ((μ ⊗ₘ κ).rnDeriv (ν ⊗ₘ η) x).toReal) (ν ⊗ₘ η) :=
+    Measure.integrable_toReal_rnDeriv (μ := μ ⊗ₘ κ) (ν := ν ⊗ₘ η)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Decomposition/IntegralRNDeriv.lean]:
```suggestion
    Measure.integrable_toReal_rnDeriv
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

File: Mathlib/MeasureTheory/Measure/Decomposition/RadonNikodym.lean (hunk 3 above)
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/Decomposition/RadonNikodym.lean]: Oh that's weird. I probably had an absolute continuity hypothesis in the aux lemma at some point that got removed later, and I did not realize that I ended up with two identical results. I'll remove the duplicate, thanks!

File: Mathlib/MeasureTheory/Measure/Decomposition/RadonNikodym.lean (hunk 4 above)
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/Decomposition/RadonNikodym.lean:205]: If I do that I get the constant zero function instead of the 0 value directly, so that's not exactly identical, and after using the lemma in a filter_upwards I would need to simplify `(fun _ => 0) x`. The difference is very minor though.
